Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  The patient is a ___ with 
minimal past medical history except for GERD, gastric ulcer in 
___, distant history pericarditis, and bronchitis 1 
month prior to admission who presents with approximately 1 month 
of worsening dyspnea on exertion and 3 days of progressive chest 
discomfort. 

He is typically an active individual, walking 3.5 miles per day 
at least but without difficult going up to 9 miles. Over the 
past few weeks, he has noted progressive difficulty with this 
exertion, specifically dyspnea that limits his exertion. He 
overall feels fatigued, weak, dizzy and nauseous when exerting 
himself; these symptoms improve with rest, though the SOB has 
also started being somewhat noticeable at rest. 

On ___ he presented to is PCP due to chest pressure in his 
upper abdomen (which he localized to his spleen). It's ___, 
mostly central though sometimes a little to the left or right of 
the sternum. His PCP advised him to go to the ED but he felt 
overall well so he declined AMA. The pain was "not quite like 
heartburn" which he has had in the past. The night it was 
present as a true pain, it was worse when laying flat and he had 
to sleep sitting up. He notices it's worse on deep inspiration. 
He did wake up feeling short of breath on ___ night into 
___. 

On ___ he had recurrence of the pressure as well as with 
palpitations and was advised by his wife to go to the ED. At 
___ ___ he had his first negative trop at 1300 on ___ 
and a negative CKMB; proBNP 39. EKG was without ST changes. He 
reported "just feeling like he's not running with a full tank 
for the past few weeks."

Given a story that sounded like possible unstable angina, he was 
referred to ___ for possible catheterization. In the ___ ED, 
he had 3 additional negative trops and EKGs still without ST 
changes. He was admitted to ___.

In terms of his recent history, he did have a gastric ulcer in 
___ for which he was put on a PPI but he self-discontinued 
it after reading about side effects; he had an upper endoscopy 2 
weeks ago and does not know the results. Notably, the chest pain 
from his ulcer was much more severe and different in quality 
than his presenting symptoms.

He additionally was treated with steroids and azithromycin for a 
bronchitis in early ___. He has had no other symptoms such as 
orthopnea, vomiting, diarrhea, abdominal pain, wheezing, ___ 
edema. 

In the ED initial vitals were:  98.1 | 69 | 145/80 | 14 | 100% 
RA 
 
EKG (this author's read of ___ ekg): Sinus, rate in ___, 
left axis deviation. Small inferior q waves. Evidence of left 
atrial enlargement (some P notching esp in inferior leads and P 
is a few ms longer than 120). Long PR. No ST changes though flat 
in V1. Goo r wave progression. 

Labs/studies notable for:  
___ CXR (___) Findings: Heart size within normal limits. 
Lungs clear. No pleural fluid or pneumothorax

Patient was given:  
 - ASA 81mg

Vitals on transfer:  97.7 | 81 | 139/67 | 20 | 98% RA 

On the floor, he is chest-pain free. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: No DM, HTN, dyslipidemia  
2. CARDIAC HISTORY: None 
3. OTHER PAST MEDICAL HISTORY:
- Gastric ulcer ___
- GERD
- Bronchitis ___
- Tendonitis release circa ___
- Pericarditis x1 in his ___
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  
Father - polycythemia ___ - ___
Daughter - ___ lymphoma
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=====================
VITALS:  97.7 | 129/75 | 66 | 96
  - no pulsus parodoxus 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate.
HEENT: PERRL, EOMI. Conjunctiva pink, no pallor or cyanosis of 
the oral mucosa.
NECK: Supple with JVP flat at 45*.  
CARDIAC: PMI Normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No clubbing, cyanosis or edema; otherwise warm, 
well-perfused
SKIN: No stasis dermatitis.
NEURO: Face grossly symmetric. Moving all limbs w/ purpose 
against gravity. No dysarthria. 

DISCHARGE PHYSICAL EXAMINATION
=====================
VITALS:  97.9 PO 127 / 76 72 20 95 RA 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.
NECK: Supple with JVP flat at 45* 
CARDIAC: Normal S1, S2. possible faint systolic murmur; 
otherwise
no murmurs/rubs/gallops. 
LUNGS: Resp unlabored, no accessory muscle use. No crackles,
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No clubbing, cyanosis or edema; otherwise warm,
well-perfused
SKIN: No stasis dermatitis.
NEURO: Face grossly symmetric. Moving all limbs w/ purpose
against gravity. No dysarthria. 
 
Pertinent Results:
___ ECHO
Conclusions
The left atrial volume index is normal. The right atrium is 
moderately dilated. Normal left ventricular wall thickness, 
cavity size, and global systolic function (3D LVEF = 64 %). The 
estimated cardiac index is normal (>=2.5L/min/m2). Right 
ventricular chamber size and free wall motion are normal. There 
is abnormal septal motion/position. The ascending aorta and 
aortic arch are mildly dilated. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis. Trace aortic regurgitation is seen. The mitral 
valve leaflets are structurally normal. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Mild mitral 
regurgitation. Mildly dilated thoracic aorta. 
If clinically suspected, the absence of a pericardial effusion 
does not exclude pericarditis. 
If clinically indicated, a cardict CT would be best to assess 
for pericardial calcification while a cardiac MRI would be best 
to assess for acute pericardial inflammation and/or pericardial 
constrictdion. 

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data. 

___ STRESS
SYMPTOMS:NONE 
ST DEPRESSION:NONE
 
INTERPRETATION: ___ yo man was referred to evaluate an atypical 
chest
discomfort, shortness of breath and generalized fatigue. The 
patient
completed 9.5 minutes of a modified ___ protocol representing 
an
average exercise tolerance; ~ ___ METS. The exercise test was 
stopped
due to progressive shortness of breath and fatigue. No chest, 
back, neck
or arm discomforts were reported. No significant ST segment 
changes were
noted. The rhythm was sinus with rare isolated APBs noted. 
Resting
systolic hypertension with a mild exaggerated systolic blood 
pressure
response noted with exercise. The heart rate response to 
exercise was
appropriate.
 
IMPRESSION: Average exercise tolerance for age. No anginal 
symptoms or
ischemic ST segment changes. Echo report sent separately.

___ STRESS ECHO
Conclusions
The patient exercised for 9 minutes and 30 seconds according to 
a Modified ___ treadmill protocol ___ METS) reaching a peak 
heart rate of 151 bpm and a peak blood pressure of 218/60 mmHg. 
The test was stopped because of fatigue. This level of exercise 
represents an average exercise tolerance for age and gender. In 
response to stress, the ECG showed no ST-T wave changes (see 
exercise report for details). There is resting hypertension with 
a mildly hypertensive further response. 
.
Resting images were acquired at a heart rate of 73 bpm and a 
blood pressure of 144/70 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Doppler demonstrated no aortic stenosis, aortic 
regurgitation or significant mitral regurgitation or resting 
LVOT gradient. 

Echo images were acquired within 32 seconds after peak stress at 
heart rates of 148 - 136 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments with slight 
decrease in cavity size. There was augmentation of right 
ventricular free wall motion. 

IMPRESSION: Average functional exercise capacity for age and 
gender. No ECG or 2D echocardiographic evidence of inducible 
ischemia to achieved workload. Resting hypertension with further 
hypertensive response to physiologic stress. 
 
Brief Hospital Course:
SUMMARY:
___ with subacute development of dyspnea and fatigue worse on 
exertion and resolving with rest, with recent chest pressure, 
with negative troponins x4 in 24 hours and no EKG changes 
concerning for unstable angina. Initially, some concern for 
pericarditis (in the setting of a recent viral illness) but 
negative CRP and WBC made this unlikely. Stress TTE was 
conducted and was normal, except for resting hypertension to 
180s and up to 210s with activity. Therefore, started on 
amlodipine 5mg daily. Discharged in stable condition with plan 
to follow up with PCP for further workup of chest discomfort and 
dyspnea.

ACUTE MEDICAL ISSUES ADDRESSED
#CHEST DISCOMFORT: Given negative CRP and WBC unlikely 
pericarditis. There was initially concern for unstable angina 
given the story of chest pressure worse with exertion and 
improved with rest. He had very few risk factors (not being 
treated for HTN or HLD; no DM, no fam hx). Nothing to suggest PE 
(tachycardia, desaturations, history) other than occasional 
pleuritic nature of chest pain (no specific findings on EKG, not 
tachycardic or hypoxic, and would expect more of a picture of RA 
enlargement). D-dimer was deferred given low risk. Troponins 
were negative. EKG with no signs of ischemia. No e/o myocarditis 
w/ negative trops. No e/o PNA on CXR, no leukocytosis or 
symptoms. Of note, prior nuclear stress done in ___ for 
different chest discomfort symptoms was also normal. Stress 
echocardiogram done here and was negative. Had hypertension 
during stress test and was started on amlodipine 5mg daily. Will 
need further workup as outpatient for intermittent chest 
discomfort that is likely not cardiac in nature.

STABLE HOME ISSUES
===================
#Hx ULCER, GERD: Pt self-dc'd PPI. However, ulcer was very 
recent. Re-started PPI while in house.

TRANSITIONAL ISSUES
[ ] Started on amlodipine 5mg daily for SBPs 180s at rest and 
210s with activity during stress test. Please follow up blood 
pressure and adjust as needed as outpatient.
[ ] Incidentally noted mildly dilated thoracic aorta. Please 
follow up as outpatient with a CTA and then biannual monitoring 
with either CTA or TTE.
[ ] Will need further workup of chest discomfort as an 
outpatient. Could consider GI referral given history of ulcer 
(however pain is different from prior pain).

#NEW MEDS: 
-omeprazole 40 PO qDaily
-amlodipine 5mg daily

#CHANGED MEDS
-none

#DICONTINUED MEDS
-none

Discharge weight: 190lb
Discharge creatinine: 0.9
Code status: full
CONTACT: HCP: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain
Dyspnea on exertion
Angina with no evidence of ischemia or wall motion abnormality

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?
==========================
You came to the hospital because of pain in your chest and 
trouble breathing.

WHAT HAPPENED IN THE HOSPITAL?
==============================
In the hospital, you underwent a stress echocardiogram to see if 
your heart was moving normally. It showed that your heart looks 
great.

WHAT SHOULD I DO WHEN I GO HOME?
================================
You should continue to take your medications as prescribed and 
follow up with your outpatient doctors as listed.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  
 
Followup Instructions:
___